US06150526
Analogously to the procedure described in Example 22(i), by alkylating tert-butyl (3RS,4RS)-4-[4-(2-ethoxycarbonyl-ethyl)-phenyl]-3-hydroxy-piperidine-1-carboxylic acid with 2-bromomethylnaphthalene there was obtained tert-butyl (3RS,4RS)-4-[4-(2-ethoxycarbonyl-ethyl)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate; MS: 518 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(2-ethoxycarbonyl-ethyl)-phenyl]-3-hydroxy-piperidine-1-carboxylic acid | C(C)(C)(C)C1N(CCC(C1O)C1=CC=C(C=C1)CCC(=O)OCC)C(=O)O | C21H31NO5
reactant | 2-bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
product | tert-butyl (3RS,4RS)-4-[4-(2-ethoxycarbonyl-ethyl)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C)OC(=O)CCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C32H39NO5
